US07094801B2
4-{3E-[4-Methoxy-2-(pyridin-2-ylmethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide
The title compound was prepared by condensing 4-methoxy-2-(pyridin-2-ylmethoxy)-5-thiophen-2-yl-benzaldehyde (Ex-114A) and 4-acetyl-benzenesulfonamide (Ex-26A) in a similar manner as described in Ex-22. Yellow solid, 90% yield, mp 188–189° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.66 (d, 1H, J=3.6 Hz), 8.28 (s, 1H), 8.21 (d, 2H, J=7.8 Hz), 8.11 (d, 1H, J=15.4 Hz), 7.89–7.99 (m, 4H), 7.57–7.68 (m, 4H), 7.53 (dd, 1H, J=5.4, 1.5 Hz), 7.41–7.45 (m, 1H), 7.13 (dd, 1H, J=5.4, 3.6 Hz), 7.02 (s, 1H), 5.45 (s, 2H), 3.99 (s, 3H). MS (ESI) m/z=507 ([M+H]+, 100%). Anal. Calcd. for C26H22N2O5S2.½H2O: C, 60.57; H, 4.50; N, 5.43; S, 12.44. Found: C, 60.92; H, 4.54; N, 5.48; S, 12.32.

reactant | 4-methoxy-2-(pyridin-2-ylmethoxy)-5-thiophen-2-yl-benzaldehyde | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCC1=NC=CC=C1 | C18H15NO3S
reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
product | 4-{3E-[4-Methoxy-2-(pyridin-2-ylmethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide | 90% yield | COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OCC1=NC=CC=C1 | C26H22N2O5S2
